US04264605
6-(4-CHLOROPHENYLTHIO)-3-AMINOPYRIDINE
6-(4-Chlorophenylthio)-3-nitropyridine (1.33 grams) was mixed with ammonium chloride (5.0 grams) in 5 ml. of water and about 50 ml. of 3A ethanol at 70°-80° C. Iron powder (3.0 grams) was added portionwise and the reaction mixture heated at 70°-80° C. with constant stirring, for 4 hours. The solution was filtered hot, solvents were removed, and the residue was washed with water; chloroform used to extract the compound was removed in vacuo. A thick oil was crystallized from ether-hexanes after passing through a flush with ethyl acetate on silica gel. The product precipitated as a white solid, yield 1.0 g., m.p. 55°-57°.

reactant | 6-(4-Chlorophenylthio)-3-nitropyridine | 1.33 grams | ClC1=CC=C(C=C1)SC1=CC=C(C=N1)[N+](=O)[O-] | C11H7ClN2O2S
reactant | ammonium chloride | 5.0 grams | [Cl-].[NH4+]
reactant | water | O | H2O
catalyst | Iron | 3.0 grams | [Fe] | Fe
solvent | ethanol | C(C)O | C2H6O
product | 6-(4-CHLOROPHENYLTHIO)-3-AMINOPYRIDINE | ClC1=CC=C(C=C1)SC1=CC=C(C=N1)N | C11H9ClN2S
